US04259352
Preparation of 1-methanesulfonyloxy-2-allylcyclohexane
To a mixture of 250 ml. of dichloromethane, 25 g. 2-allylcyclohexanol and 16.7 g. of triethylamine cooled in an ice-salt bath to -10° C. is added dropwise, over 15 minutes, 18.9 g. of methanesulfonyl chloride. The mixture is cooled at -10° C. to -15° C. for 30 minutes and then washed with 300 ml. each of cold water, 10% hydrochloric acid, sodium carbonate solution and with saturated sodium chloride solution. The organic layer is dried with magnesium sulfate and concentrated in vacuo to give a pale yellow oil.

reactant | dichloromethane | ClCCl | CH2Cl2
reactant | 2-allylcyclohexanol | C(C=C)C1C(CCCC1)O | C9H16O
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-methanesulfonyloxy-2-allylcyclohexane | CS(=O)(=O)OC1C(CCCC1)CC=C | C10H18O3S
